US06372770B1
(a) 5-Chloro-2-(2-chlorophenyl)-7-(3-hydroxy-1-propynyl)-benzoxazole
A solution of 17.15 g (50 mmol) of 7-bromo-5-chloro-2-(2-chlorophenyl)-benzoxazole and 4.40 ml (75 mmol) of propargylalcohol in 32 ml of toluene and 64 ml of triethylamine was heated under nitrogen to 80-5° C. with 175.4 mg (250 μM) of bis(triphenylphosphine)palladium (II) chloride and 8.6 mg (4.5 μM) of copper (1) iodide. After 6 hours, the solid was filtered off and washed with dichloromethane. The solution was evaporated in vacuo. The residue was dissolved in ethyl acetate, washed with 1 N HCl, sodium bicarbonate solution, and water. The ethyl acetate was removed in vacuo, the residue (15.46 g) was dissolved in dichloromethane and filtered through 60 g of silica gel to give the title compound (13.64 g, 85.8%), mp 165-9° C.

reactant | 7-bromo-5-chloro-2-(2-chlorophenyl)-benzoxazole | 50 mmol, 17.15 g | BrC1=CC(=CC=2N=C(OC21)C2=C(C=CC=C2)Cl)Cl | C13H6BrCl2NO
reactant | propargylalcohol | 75 mmol, 4.40 ml | C(C#C)O | C3H4O
solvent | toluene | 32 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 64 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium (II) chloride | 250 μM, 175.4 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (1) iodide | 4.5 μM, 8.6 mg | [Cu]I
product | 5-Chloro-2-(2-chlorophenyl)-7-(3-hydroxy-1-propynyl)-benzoxazole | 13.64 g, 85.8% | ClC=1C=C(C2=C(N=C(O2)C2=C(C=CC=C2)Cl)C1)C#CCO | C16H9Cl2NO2
